US07314884B2
Step B]: N1-(4,5-Dimethyl-thiazol-2-yl)-ethane-1,2-diamine
A solution of [2-(4,5-dimethyl-thiazol-2-ylamino)-ethyl]-carbamic acid tert-butyl ester (2.71 g) in methylene chloride (50 ml) was treated with TFA (5 ml) overnight at RT and 1 hour at 60° C. The solvent was evaporated. Ethyl acetate and 1N HCl were added. The separated aqueous layer was extracted under basic conditions with ethyl acetate. The obtained organic layer was washed with brine, dried (MgSO4) and evaporated yielding 0.42 g of a light yellow oil.

reactant | [2-(4,5-dimethyl-thiazol-2-ylamino)-ethyl]-carbamic acid tert-butyl ester | 2.71 g | C(C)(C)(C)OC(NCCNC=1SC(=C(N1)C)C)=O | C12H21N3O2S
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N1-(4,5-Dimethyl-thiazol-2-yl)-ethane-1,2-diamine | 0.42 g | CC=1N=C(SC1C)NCCN | C7H13N3S
